US06077866
To an acetic acid solution (30 ml) of 4-chloro-4'-methylmercaptomethylbenzophenone (8.3 g), aqueous 30% hydrogen peroxide solution (3.5 ml) was added, and the mixture was stirred for 2 hours while keeping at 10° C. To the reaction solution, water (200 ml) and toluene (200 ml) were added, and then the organic layer was separated, and washed successively with water, an aqueous sodium bicarbonate solution and an aqueous saturated sodium chloride solution, followed by drying over anhydrous magnesium sulfate. After distilling off the solvent, the crude product was purified by silicagel column chromatography (developing solvent: acetone:n-hexane=50:50) to obtain 4-chloro-4'-methylsulfinylmethylbenzophenone (5.3 g).

reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
reactant | 4-chloro-4'-methylmercaptomethylbenzophenone | 8.3 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)CSC)C=C1 | C15H13ClOS
reactant | hydrogen peroxide | 3.5 ml | OO | H2O2
reactant | water | 200 ml | O | H2O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-4'-methylsulfinylmethylbenzophenone | 5.3 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)CS(=O)C)C=C1 | C15H13ClO2S
